US05580893
N-(2-Nitroxyethyl)-5-methyl-3-isoxazolyloxyacetamide (Exemplified compound No. 30)
Following a similar treatment to that in Example 2 and using 0.40 g of 5-methyl-3-isoxazolyloxyacetic acid and 0.43 g of nitroxyethylamine nitrate, 0.23 g of the title compound was obtained as colorless needles (solvent for recrystallization; diisopropyl ether).

reactant | 5-methyl-3-isoxazolyloxyacetic acid | 0.40 g | CC1=CC(=NO1)OCC(=O)O | C6H7NO4
reactant | nitroxyethylamine nitrate | 0.43 g | [N+](=O)(O)[O-].O([N+](=O)[O-])CCN
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | N-(2-Nitroxyethyl)-5-methyl-3-isoxazolyloxyacetamide | 0.23 g | O([N+](=O)[O-])CCNC(COC1=NOC(=C1)C)=O | C8H11N3O6
